Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
Transient vision loss
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old retired Psychiatrist with a past medical
history of hypothyroidism, hyperlipidemia, and arthritis s/p b/l
knee repair, who presents for evaluation of acute transient
monocular vision loss. Patient reports that over the past day,
she has been suffering from nausea, with an episode of vomiting
and diarrhea this evening. She attributes GI symptoms to food
poisoning from chicken wings she ate yesterday. Soon after
vomiting this evening, at 1600, the patient suddenly lost vision
in her left eye. She said "everything went out of sight"
appearing "black" but could not rememberif there was a sensation
of curtain was spreading over her eye. Symptoms were confined to
her left eye, when she closed her left eye, she thought her 
right
eye had full range of vision. Her symptoms lasted for ___ 
minutes
and then resolved. During this episode, she also saw electrical
signs within her field of sight. 

She initially thought her symptoms may be related to her 
vomiting
episode. However, 30 minutes later, they recurred with left eye
blackness lasting ___ minutes. No eye pain. No headaches. No
double vision. No weakness, dysarthria, difficulty understanding
or speaking. She called her son, who is an ___ in ___,
and he requested that she present for further evaluation. 

On admission to the ED, she notes that her symptoms remained
"totally resolved." Since her ___ episode, she has not had any
visual changes, weakness, difficulty speaking/understanding, or
headache.

Of note, she takes 3x 325 mg ASA daily for arthritis.

Review of systems is notable for ___ days of congestion, for
which she started to take Claritin. She also has reported 
nausea,
vomiting, and diarrhea over the past 24 hrs, which she 
attributes
to food poisoning. 
 
On neuro ROS, the pt currently denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. She endorses baseline "stiffness" in the setting of
her arthritis.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Endorses nausea, vomiting, diarrhea. No
constipation or abdominal pain.  No dysuria.  Denies arthralgias
or myalgias. Denies rash.

The NIHSS was performed: 0
Date: ___
Time: 0208
(within 6 hours of patient presentation or neurology consult) 
 
___ Stroke Scale score was : 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 0
8. Sensory: 0
9. Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 
Past Medical History:
- arthritis
- hypothyroidism
- GERD
- hyperlipidemia
 
 
Social History:
___
Family History:
___
 
Physical Exam:
ADMISSION EXAM:

Physical Exam:
Vitals: T98.2, HR 104, RR 15, BP 178/66, SaO2 98 RA
General: Awake, cooperative, NAD. Appears younger than stated
age.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed crisp optic disc. 
PER OPHTHO EXAM: foveal hypopigmented lesion OS (baseline for
patient), extramacular drusen
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
Strength is full throughout (giveway weakness in IP 
bilaterally).
-Sensory: Diminished sensation to temperature in right and left
medial calf. No deficits to light touch, pinprick, vibratory
sense, proprioception throughout. No extinction to DSS.  

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3  1
R  2  2    2    3   1
Plantar response was extensor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred.
=================

DISCHARGE EXAM:
Unable to be performed as patient requested to leave AMA, did 
not wish to wait for provider ___.

EXAM from ___ AM per progress note:
"Exam
Gen: well, appearing, sitting in bed, cooperative
HEENT: temporalis pulse on R >L
Neck: supple
CV: WWP
Extr: full ROM

CN:
EOMI, face symmetric, PERRL 6->4mm, VFFC
Motor: no pronator drift, ___ strength all extremities including
delt, tri, wr ext, IP, TA
Coord: no dysmetria, rapid finger movements intact"
 
Pertinent Results:
___ 09:00AM BLOOD WBC-6.1 RBC-4.42 Hgb-13.1 Hct-40.2 MCV-91 
MCH-29.6 MCHC-32.6 RDW-13.8 RDWSD-46.1 Plt ___
___ 09:00AM BLOOD Glucose-120* UreaN-19 Creat-0.7 Na-139 
K-4.0 Cl-100 HCO3-26 AnGap-13
___ 09:00AM BLOOD ALT-15 AST-18 LD(LDH)-176 CK(CPK)-80 
AlkPhos-83 TotBili-0.5
___ 09:00AM BLOOD Albumin-4.5 Cholest-212*
___ 09:00AM BLOOD Triglyc-149 HDL-64 CHOL/HD-3.3 
LDLcalc-118
___ 09:00AM BLOOD TSH-0.59
___ 09:00AM BLOOD CRP-16.8*
 
Brief Hospital Course:
Patient was admitted to the inpatient stroke service, with 
diagnosis of TIA of likely cardioembolic etiology given remote 
silent infarct noted on imaging.

CTA was reviewed with mild atherosclerosis noted in carotid 
arteries. CT showed remote infarct in branch of L MCA. MRI did 
not show acute stroke. CRP was elevated during admission to 16, 
of unclear etiology.

Patient was scheduled for echocardiogram to evaluate etiology of 
strokes/TIA, but decided to leave AMA. We had recommended holter 
monitor as an outpatient as well, which patient states she will 
obtain with outpatient providers. Patient refused to wait for 
discussion of AMA status with providers, and did not wish to 
wait for discharge paperwork to be completed.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 975 mg PO DAILY 

 
Discharge Medications:
Please continue all home medications.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Ischemic Attack
 
Discharge Condition:
Stable / AMA
 
Discharge Instructions:
(Patient refused to wait for discharge instructions and left 
against medical advice).

Please continue all home medications.
Please obtain echocardiogram and holter monitor to evaluate for 
atrial fibrillation or cardioembolic source of TIA/stroke.
 
Followup Instructions:
___